US08183271B2
{5-Fluoro-2-[2-(4-methoxyphenyl)ethyl]benzyl}triphenylphosphonium bromide
A solution of 5.95 g (22.86 mmol) of {5-fluoro-2-[2-(4-methoxyphenyl)ethyl]phenyl}methanol in 130 ml of acetonitrile is mixed with 7.45 g (21.71 mmol) of triphenylphosphonium bromide and heated under reflux for 3 hours. The reaction solution is then concentrated to dryness, and the resulting oil is triturated in diethyl ether. The product crystallizes as a white solid during this. After filtration, the solid is dried in a drying oven at 50° C. overnight. 11.5 g (77% of theory) of the title compound are obtained.

reactant | {5-fluoro-2-[2-(4-methoxyphenyl)ethyl]phenyl}methanol | 22.86 mmol, 5.95 g | FC=1C=CC(=C(C1)CO)CCC1=CC=C(C=C1)OC | C16H17FO2
reactant | triphenylphosphonium bromide | 21.71 mmol, 7.45 g | [Br-].C1(=CC=CC=C1)[PH+](C1=CC=CC=C1)C1=CC=CC=C1
solvent | acetonitrile | 130 ml | C(C)#N | C2H3N
product | {5-Fluoro-2-[2-(4-methoxyphenyl)ethyl]benzyl}triphenylphosphonium bromide | [Br-].FC=1C=CC(=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C1)CCC1=CC=C(C=C1)OC | InChI=1S/C34H31FOP.BrH/c1-36-31-23-18-27(19-24-31)17-20-28-21-22-30(35)25-29(28)26-37(32-11-5-2-6-12-32,33-13-7-3-8-14-33)34-15-9-4-10-16-34;/h2-16,18-19,21-25H,17,20,26H2,1H3;1H/q+1;/p-1
